Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:7],1.54813860664
[H:7].[O:1]=[C:2][O:3][C:4]#[C:5][H:6]>>[O:1]=[C:2][O:3][C:4]=[C:5]([H:6])[H:7],-2.54156659733
[O:1]=[C:2]1[C:3][C:4]([H:5])[C@:6]1([H:7])[O:8][H:9]>>[O:1]=[C:2][C@@:6]([C:4](=[C:3])[H:5])([H:7])[O:8][H:9],2.01179407486
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.55460172811
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11][H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.98849686804
[H:1][O:2][C:3]1[O:4][C:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3][C:9]([C:6]([C:5]=[O:4])([H:7])[H:8])([H:10])[H:11],0.24119029798
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])[C:5]#[C:6],7.48783600903
[C:7]([H:8])[O:9][H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-0.888216970001
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16],4.59789839846
[C:4]#[C:5][C:6][C:7]([H:8])[H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])[H:9],-5.040574329630001
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.7929806793
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],2.04427579501
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])[H:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.324240008319999
[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-8.88165290493
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],3.33302843468
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.49526613326
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.03770518
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])([C:4][C:10]([H:11])([H:12])[H:13])[H:9],6.75233116741
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:10][O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.37191359173
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11]>>[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],2.98257136068
[H:15].[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.99059538287
[H:1][C:2]1[O:3][C:4][O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4][O:5][C:8][H:9])[C:6]([H:7])([H:10])[H:11],3.86839904975
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],3.91690516364
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1],4.22328265013
[C:1]=[C:2]([O:3][C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:4][C:7]([H:8])([H:9])[H:10].[C:2](=[O:3])([O:5])[H:6],2.8029279375
[H:1][C:2]([C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:6]=[C:4]([C:3]([H:7])([H:8])[C:9]([H:10])[H:11])[H:5])[C:12]([H:13])([H:14])[H:15],1.08864279187
[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.56978590789
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7][H:8],-1.93518833257
